US09212172B2
Bazedoxifene hydrochloride (1 g) and dimethylsulfoxide (10 mL) are mixed and heated to 60-70° C. to produce a clear solution, followed by filtration. To the filtrate, toluene (50 mL), morpholine (1 mL), and water (30 mL) are added and the mixture is stirred at room temperature for 12-24 hours. The solid so formed is collected by filtration, washed with toluene (5 mL), water (5 mL) and dried under vacuum below 80° C. for about 7 hours to afford 800 mg of crystalline bazedoxifene free base Form A.

reactant | Bazedoxifene hydrochloride | 1 g | CC1=C(N(C2=C1C=C(C=C2)O)CC3=CC=C(C=C3)OCCN4CCCCCC4)C5=CC=C(C=C5)O.Cl
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | bazedoxifene | 800 mg | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
